US06583126B2
Step 2 methyl-4-[2-(4-fluorophenyl)-2-oxoethyl]benzoate
To 2-(4-fluorophenyl)-2-[(trimethylsilyl)oxy]acetonitrile (0.500 g, 2.24 mmol) in degassed THF (11 ml) at −78° C. was added LHMDS 1M in THF (2.4 ml). To the previous reaction mixture a solution of methyl 4-(bromomethyl)benzoate (0.513 g, 2.25 mmol) in THF (2 ml) was then added. After a period of 1 h at r.t., tetrabutylammonium fluoride solution 1 M in THF (2.23 ml) was added to the reaction mixture and stirred for 10 minutes. Water was added and the mixture was extracted with ethyl acetate. The organic phase was dried over sodium sulfate and evaporated to dryness. The residue was purified by flash chromatography using hexane/ethyl acetate 30% giving 0.4 g of the title compound.

reactant | 2-(4-fluorophenyl)-2-[(trimethylsilyl)oxy]acetonitrile | 2.24 mmol, 0.500 g | FC1=CC=C(C=C1)C(C#N)O[Si](C)(C)C | C11H14FNOSi
reactant | LHMDS | 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | methyl 4-(bromomethyl)benzoate | 2.25 mmol, 0.513 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
reactant | tetrabutylammonium fluoride | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 11 ml | C1CCOC1 | C4H8O
solvent | THF | 2.4 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2.23 ml | C1CCOC1 | C4H8O
solvent | Water | O | H2O
product | methyl-4-[2-(4-fluorophenyl)-2-oxoethyl]benzoate | 0.4 g | COC(C1=CC=C(C=C1)CC(=O)C1=CC=C(C=C1)F)=O | C16H13FO3
